US08664220B2
Synthesis of N-[1-(4′-{4-[(1-Benzyl-1H-[1,2,3]triazol-4-yl)-hydroxy-methyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarbonyl]-methanesulfonamide (Enantiomer B) (Compound 3-1)
A solution of 1-(4′-{4-[(1-benzyl-1H-[1,2,3]triazol-4-yl)-hydroxy-methyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid (Enantiomer B) (0.100 g, 0.197 mmol), carbonyldiimidazole (0.080 g, 0.5 mmol), N,N-dimethylamino pyridine (0.002 g, 0.02 mmol) in THF (2 mL) was stirred at room temperature overnight. Added MeSO2NH2 (0.050 g, 0.5 mmol) and DBU (0.100 mL, 0.65 mmol) and the mixture heated to 100° C. in a capped vial for 4.5 hours. The solution was poured into sat. aqueous NH4Cl, then water and EtOAc was added. The organic layer was separated, dried (Na2SO4), concentrated and the resulting reside purified by preparative HPLC to yield the title compound.

reactant | 1-(4′-{4-[(1-benzyl-1H-[1,2,3]triazol-4-yl)-hydroxy-methyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid | 0.197 mmol, 0.100 g | C(C1=CC=CC=C1)N1N=NC(=C1)C(C=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)O)C)O | C30H26N4O4
reactant | carbonyldiimidazole | 0.5 mmol, 0.080 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | MeSO2NH2 | 0.5 mmol, 0.050 g | CS(=O)(=O)N | CH5NO2S
reactant | DBU | 0.65 mmol, 0.100 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | N-[1-(4′-{4-[(1-Benzyl-1H-[1,2,3]triazol-4-yl)-hydroxy-methyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarbonyl]-methanesulfonamide | C(C1=CC=CC=C1)N1N=NC(=C1)C(C=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C)C)O | C31H29N5O5S
